US09446130B2
4-(8-amino-3-(3-(trifluoromethyl)-5,6-dihydro-[1,2,4]triazolo[4,3-a]pyrazin-7(8H)-yl)imidazo[1,5-a]pyrazin-1-yl)-N-(4-isopropoxypyridin-2-yl)benzamide
A seal 4 ml vial containing N-(4-isopropoxypyridin-2-yl)-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)benzamide, (31.3 mg, 0.082 mmol), 1-bromo-3-(3-(trifluoromethyl)-5,6-dihydro-[1,2,4]triazolo[4,3-a]pyrazin-7(8H)-yl)imidazo[1,5-a]pyrazin-8-amine, (30 mg, 0.074 mmol), and 2nd Generation Xphos Precatalyst (11.71 mg, 0.015 mmol) was treated with Dioxane (372 μl) via a syringe and needle. The resulting suspension was then degassed with house vacuum and back filled with N2. Potassium phosphate tribasic (112 μl, 0.223 mmol) was then added via a syringe and needle and the resulting cream suspension stirred at 60° C. for 5 h. Purification on the Mass Directed HPLC (method: 5 to 35% MeCN/Water w/0.05% TFA on a 30 mm×100 mm, 5 m Waters SunFire RP C-18 Column) afforded 8 mg of the Title compound as a yellow solid/LC-MS (M+1) 579.39.

reactant | N-(4-isopropoxypyridin-2-yl)-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)benzamide | 0.082 mmol, 31.3 mg | C(C)(C)OC1=CC(=NC=C1)NC(C1=CC=C(C=C1)B1OC(C(O1)(C)C)(C)C)=O | C21H27BN2O4
reactant | 1-bromo-3-(3-(trifluoromethyl)-5,6-dihydro-[1,2,4]triazolo[4,3-a]pyrazin-7(8H)-yl)imidazo[1,5-a]pyrazin-8-amine | 0.074 mmol, 30 mg | BrC=1N=C(N2C1C(=NC=C2)N)N2CC=1N(CC2)C(=NN1)C(F)(F)F | C12H10BrF3N8
reactant | Potassium phosphate tribasic | 0.223 mmol, 112 μl | [O-]P(=O)([O-])[O-].[K+].[K+].[K+]
catalyst | Xphos Precatalyst | 0.015 mmol, 11.71 mg | CC(C)C1=CC(=C(C(=C1)C(C)C)C2=CC=CC=C2P(C3CCCCC3)C4CCCCC4)C(C)C.C1=CC=C([C-]=C1)CCN.Cl[Pd+]
solvent | Dioxane | 372 μl | O1CCOCC1 | C4H8O2
product | 4-(8-amino-3-(3-(trifluoromethyl)-5,6-dihydro-[1,2,4]triazolo[4,3-a]pyrazin-7(8H)-yl)imidazo[1,5-a]pyrazin-1-yl)-N-(4-isopropoxypyridin-2-yl)benzamide | 8 mg | NC=1C=2N(C=CN1)C(=NC2C2=CC=C(C(=O)NC1=NC=CC(=C1)OC(C)C)C=C2)N2CC=1N(CC2)C(=NN1)C(F)(F)F | C27H25F3N10O2
